US05589473
To a stirred mixture of 56.2 g of 4-trityloxy-butanal in 430 ml of acetone and 170 ml of water were added portionwise over 1.5 h 27.0 g of potassium permanganate, the temperature of the mixture being maintained at 20° to 25° C. Stirring was continued for 3 h, and then, the pH of the mixture was set to 5 by addition of 22 ml of 3N hydrochloric acid. Over 30 min, 300 ml of 38% sodium bisulfite solution were added dropwise at a reaction temperature of 20° to 30° C. The pH was lowered to 2 by addition of 80 ml of 3N hydrochloric acid, and subsequently the mixture was extracted with 1 I of ethyl acetate. The organic layer was washed with water, dried over sodium sulfate, and the solvent was evaporated in vacuo. The residue was crystallized from ethyl acetate/hexane to yield 46.0 g of 4-trityloxy-butyric acid as a white solid of m.p. 137°-140° C.

reactant | 4-trityloxy-butanal | 56.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCCCC=O | C23H22O2
reactant | potassium permanganate | 27.0 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | hydrochloric acid | 3N, 22 ml | Cl | ClH
reactant | sodium bisulfite | 300 ml | S([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 3N, 80 ml | Cl | ClH
solvent | acetone | 430 ml | CC(=O)C | C3H6O
solvent | water | 170 ml | O | H2O
product | 4-trityloxy-butyric acid | 46.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCCCC(=O)O | C23H22O3
